US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-(3-aminomethylpyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate (I-1I)
A mixture of diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate (IX-1) (E, 716 mg, 1 mmole) and 3-(t-butyloxycarbonylaminomethyl)pyridine (516 mg, 2 mmoles) in DMSO (2 ml) was stirred at ambient temperature for 30 minutes. The mixture was poured into ethyl acetate (200 ml), and the precipitate was collected by filtration, washed well with ethyl acetate and dried. A mixture of the quaternized salt (500 mg), sodium bisulfite (50 mg) in HCOOH (5 ml) was stirred at 40°-50° C. for 80 minutes and evaporated to dryness under reduced pressure. The residual solid was dissolved in water (40 ml), and the mixture was neutralized with NaHCO3. Insoluble material was filtered off, and the filtrate was chromatographed on a reverse phase column (packing of PrepPAK-500/C18 cartridge, 100 ml), eluting with water, 5%, 10%, 20% and 30% aqueous CH3OH, successively. The fractions containing the desired compound were combined, evaporated and lyophilized to provide 10 mg (1.8%) of the title compound (I-1I) (E) as a tan powder.

reactant | diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate | 1 mmole, 716 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CCI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H25IN6O5S2
reactant | 3-(t-butyloxycarbonylaminomethyl)pyridine | 2 mmoles, 516 mg | C(C)(C)(C)OC(=O)NCC=1C=NC=CC1 | C11H16N2O2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-(3-aminomethylpyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate | 10 mg, 1.8% | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC(=CC=C2)CN)C(=O)[O-])C1=O)=NOC | C21H22N8O5S2
